US08283353B2
4′-({4-[trans-4-(2-morpholin-4-ylethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]ethyl methanesulfonate (0.3 g), morpholine (0.88 g), sodium iodide (0.015 g) and tetrahydrofuran (10 mL) was stirred at 70° C. for 5 hr. The reaction mixture was concentrated, and the obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.3 g, 100%).

reactant | 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]ethyl methanesulfonate | 0.3 g | CS(=O)(=O)OCCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)CCC)N=CN2 | C31H35N5O5S
reactant | morpholine | 0.88 g | N1CCOCC1 | C4H9NO
reactant | sodium iodide | 0.015 g | [I-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4′-({4-[trans-4-(2-morpholin-4-ylethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.3 g, 100% | N1(CCOCC1)CCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C34H40N6O3
